US06017919
10% Palladium-carbon catalyst (water content 50%, 200 mg) was added to a mixed solution of N-[2-(4-hydroxyphenyl)ethyl]-3-nitrophthalimide (1.67 g, 0.0053 mol, 1 eq) in methanol (20 ml)-ethanol (50 ml)-acetic acid (20 ml), and the mixture was stirred for 3 hours at room temperature in a stream of hydrogen. The reaction mixture was filtered through Celite, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography on silica gel (chloroform/methanol=50/1) to give 3-amino-N-[2-(4-hydroxyphenyl)ethyl]phthalimide (360 mg, 24.1%) as a colorless solid.

reactant | N-[2-(4-hydroxyphenyl)ethyl]-3-nitrophthalimide | 0.0053 mol, 1.67 g, 1 eq | OC1=CC=C(C=C1)CCN1C(C=2C(C1=O)=C(C=CC2)[N+](=O)[O-])=O | C16H12N2O5
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
catalyst | Palladium-carbon | 200 mg | [C].[Pd]
solvent | methanol | 20 ml | CO | CH4O
product | 3-amino-N-[2-(4-hydroxyphenyl)ethyl]phthalimide | 360 mg, 24.1% | NC1=C2C(C(=O)N(C2=O)CCC2=CC=C(C=C2)O)=CC=C1 | C16H14N2O3
